US08003685B2
To a 25 mL RBF under nitrogen, 3-[(1,4-dioxa-spiro[4.5]dec-8-yl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-5-iodo-thiophene-2-carboxylic acid methyl ester (1 eq.), copper iodide (0.025 eq.) and tris(dibenzylideneacetone) dipalladium (0) (0.01 eq.) are taken. DMF, triethylamine (2.5 eq.) and 3,3-dimethyl-but-1-yne (2 eq.) are added and the reaction mixture is stirred at 40° C. for 2 h under a N2 atmosphere. The reaction mixture is filtered on celite and washed with ethyl acetate. The solution is diluted with water and extracted 2 times with ethyl acetate. The organic phases are combined and washed 3 times with water. The organic layer is separated, dried (Na2SO4), evaporated to about 2 mL and then 8 mL of heptane is added. It is evaporated to 2-4 mL and cooled in an ice bath. The formed white solid is filtered, washed with heptane and dried in oven to obtain 5-(3,3-dimethyl-but-1-ynyl)-3-[(1,4-dioxa-spiro[4.5]dec-8-yl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester.

reactant | 3-[(1,4-dioxa-spiro[4.5]dec-8-yl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-5-iodo-thiophene-2-carboxylic acid methyl ester | 1 eq. | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)C1CCC2(OCCO2)CC1)I | C22H30INO5S
reactant | triethylamine | 2.5 eq. | C(C)N(CC)CC | C6H15N
reactant | 3,3-dimethyl-but-1-yne | 2 eq. | CC(C#C)(C)C | C6H10
catalyst | copper iodide | 0.025 eq. | [Cu](I)I
catalyst | tris(dibenzylideneacetone) dipalladium (0) | 0.01 eq. | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-(3,3-dimethyl-but-1-ynyl)-3-[(1,4-dioxa-spiro[4.5]dec-8-yl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)C1CCC2(OCCO2)CC1)C#CC(C)(C)C | C28H39NO5S
